US05780482
A mixture of ethyl 6-ethyl-4-hydroxy-1,5-naphthyridine-3-carboxylate (3.0 g) and phosphorus oxychloride (25 ml) was stirred and heated at 40°-50° C. for 1 hour. The mixture was then cooled and then worked up as described in Example B1 to give ethyl 4-chloro-6-ethyl-1,5-naphthyridine-3-carboxylate, m.p. 94°-96° C.

reactant | ethyl 6-ethyl-4-hydroxy-1,5-naphthyridine-3-carboxylate | 3.0 g | C(C)C=1N=C2C(=C(C=NC2=CC1)C(=O)OCC)O | C13H14N2O3
reactant | phosphorus oxychloride | 25 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | ethyl 4-chloro-6-ethyl-1,5-naphthyridine-3-carboxylate | ClC1=C(C=NC2=CC=C(N=C12)CC)C(=O)OCC | C13H13ClN2O2
